US07179823B1
Methanesulfonyl chloride (5.03 ml) was slowly added to a mixture of 3,5-dibenzyloxybenzyl alcohol (16.0 g), triethylamine (9.06 ml), and tetrahydrofuran (200 ml), and the mixture was stirred at room temperature for 30 minutes. The reaction mixture was poured into water, which was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), and then concentrated. The colorless crystals obtained were collected by filtration to yield 3,5-dibenzyloxybenzyl methanesulfonate (22.20 g, yield: 91%). This was recrystallized from ethyl acetate-hexane. Melting point: 85–86° C.

reactant | Methanesulfonyl chloride | 5.03 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 3,5-dibenzyloxybenzyl alcohol | 16.0 g | C(C1=CC=CC=C1)OC=1C=C(CO)C=C(C1)OCC1=CC=CC=C1 | C21H20O3
reactant | triethylamine | 9.06 ml | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 3,5-dibenzyloxybenzyl methanesulfonate | 22.20 g, yield: 91% | CS(=O)(=O)OCC1=CC(=CC(=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C22H22O5S
